US05958914
To a solution of 7β-amino-3-vinyl-3-cephem-4-carboxylic acid (1 g) and N-(trimethylsilyl)acetamide (5.8 g) in dichloromethane (10 ml) was added 2-(2-amino-5-chlorothiazol-4-yl)-2-(Z)-(acetoxyimino) acetyl chloride (1.69 g) under ice-cooling. After being stirred at the same temperature for 1 hour, to this mixture was added methanol (10 ml). After evaporating in vacuo to remove the dichloromethane, the residue was added conc. hydrochloric acid (1.95 ml) at room temperature. After being stirred at the same temperature for 4 hours, the mixture was poured into water (10 ml). The mixture was adjusted to pH 3.5 with 28% ammonium hydroxide in water, and the resulting precipitate was collected by filtration to afford 7β-[2-(2-amino-5-chlorothiazol-4-yl)-2-(Z)-(hydroxyimino)acetamido]-3-vinyl-3-cephem-4-carboxylic acid (137 mg).

reactant | 7β-amino-3-vinyl-3-cephem-4-carboxylic acid | 1 g | N[C@H]1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O | C9H10N2O3S
reactant | N-(trimethylsilyl)acetamide | 5.8 g | C[Si](NC(C)=O)(C)C | C5H13NOSi
reactant | 2-(2-amino-5-chlorothiazol-4-yl)-2-(Z)-(acetoxyimino) acetyl chloride | 1.69 g | NC=1SC(=C(N1)/C(/C(=O)Cl)=N/OC(C)=O)Cl | C7H5Cl2N3O3S
reactant | methanol | 10 ml | CO | CH4O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 7β-[2-(2-amino-5-chlorothiazol-4-yl)-2-(Z)-(hydroxyimino)acetamido]-3-vinyl-3-cephem-4-carboxylic acid | 137 mg | NC=1SC(=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)=N/O)Cl | C14H12ClN5O5S2
